US07576215B2
3-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-NITROPHENOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 5-hydroxy-2-nitro-benzaldehyde according to the procedure of Example 66. MS (ES) m/z 528.0.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 5-hydroxy-2-nitro-benzaldehyde | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
product | 3-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-NITROPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1C=C(C=CC1[N+](=O)[O-])O)C(F)(F)F | C30H22F3N3O3
